US04096263
(1-phenyl-1H-tetrazol-5-yl)aminoacetaldehyde diethyl acetal (11 g.) and 3,4-dihydroxyphenethylamine hydrochloride (5.0 g.) were added to a mixture of ethanol (55 ml.) and water (20 ml.), and dissolved with heating and stirring. Conc. hydrochloric acid (6.0 g.) was added thereto and the mixture was refluxed for 8 hours. The reaction mixture was allowed to stand and the precipitated crystals were collected by filtration to give 1-(1-phenyl-1H-tetrazol-5-yl)aminomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (5.9 g.). The crystals were recrystallized from a mixture of isopropyl alcohol and water to give pure crystals (4.2 g.), mp 236° to 241° C (dec.).

reactant | (1-phenyl-1H-tetrazol-5-yl)aminoacetaldehyde diethyl acetal | 11 g | C(C)OC(CNC1=NN=NN1C1=CC=CC=C1)OCC | C13H19N5O2
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 5.0 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | ethanol | 55 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 6.0 g | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 1-(1-phenyl-1H-tetrazol-5-yl)aminomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 5.9 g | Cl.C1(=CC=CC=C1)N1N=NN=C1NCC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C17H18N6O2.ClH/c24-15-8-11-6-7-18-14(13(11)9-16(15)25)10-19-17-20-21-22-23(17)12-4-2-1-3-5-12;/h1-5,8-9,14,18,24-25H,6-7,10H2,(H,19,20,22);1H
